US08232289B2
2. (2-Bromo-3-pyridyl)methyl methanesulfonate
Triethylamine (8.90 mL) is added to a round bottom flask containing a solution of (2-bromopyridin-3-yl)methanol (8 g, 42.55 mmol) in dichloromethane (212 mL) at 0° C., then methanesulfonyl chloride (3.95 mL) is added and the mixture is stirred at that temperature for 1.5 h. After that time the mixture is washed with water and organic layer is decanted, dried over magnesium sulfate and solvent evaporated under reduced pressure to yield 10.4 g of the title compound used without further purification. MS (m/z): 266, 268 (M+1; M+3).

reactant | Triethylamine | 8.90 mL | C(C)N(CC)CC | C6H15N
reactant | (2-bromopyridin-3-yl)methanol | 42.55 mmol, 8 g | BrC1=NC=CC=C1CO | C6H6BrNO
reactant | methanesulfonyl chloride | 3.95 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 212 mL | ClCCl | CH2Cl2
product | (2-Bromo-3-pyridyl)methyl methanesulfonate | 10.4 g | CS(=O)(=O)OCC=1C(=NC=CC1)Br | C7H8BrNO3S
